US07312241B2
3-(3-Methoxy-4-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (E and Z isomers) were prepared analogously to 3-(4-methoxy-3-nitro-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile using (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone (1.2 g, 3.5 mmol), lithium bis(trimethylsilyl)amide (3.9 ml, 3.9 mmol) and diethyl cyanomethylphosphate (0.7 g, 3.9 mmol). The crude product was purified by flash chromatography (silica gel, CH2Cl2) to afford mixture isomers of 3-(3-methoxy-4-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (0.9 g, 70%): 1H NMR (CDCl3) δ 7.93 (dd, J=8.4 and 6 Hz, 1H), 7.06-6.96 (m, 2H), 6.65 (s, 1H), 6.46 (s, 2H), 5.80(5.71) (s, 1H), 4.00-3.81 (m, 12H).

reactant | 3-(4-methoxy-3-nitro-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile | COC1=C(C=C(C=C1)C(=CC#N)C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C18H16N2O5
reactant | (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone | 3.5 mmol, 1.2 g | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C17H17NO7
reactant | lithium bis(trimethylsilyl)amide | 3.9 mmol, 3.9 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | 3-(3-methoxy-4-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 0.9 g, 70% | COC=1C=C(C=CC1[N+](=O)[O-])C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC | C19H18N2O6
